US07915250B2
A solution 3-(3-hydroxyazetidin-3-yl)-1,4-bis(phenylmethyl)piperazine-2,5-dione (493 mg, 1.35 mmol) in ethyleneglycol dimethylether (12 mL) was treated with sodium borohydride (511 mg, 13.5 mmol) followed by slow addition of boron trifluoride-diethyl etherate. The reaction mixture was then heated to reflux for 3 hours. After cooling to 0° C., methanol (17 mL) was added followed by careful addition of concentrated hydrochloric acid (7 mL). The resulting mixture was heated to reflux for 70 minutes. After cooling to room temperature, insoluble residue was removed by filtration. The filtrate was concentrated to an aqueous mixture of about 10 mL in volume. This mixture was cooled to 0° C. and was then basified to pH 10 with 5 M sodium hydroxide (approximately 17 mL). Dichloromethane (10 mL) was then added followed by di-tert-butyl dicarbonate (442 mg, 2.03 mmol). The mixture was warmed to room temperature and stirred for 15 minutes. The layers were separated and the aqueous phase was extracted twice with dichloromethane. The organic extracts were combined, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography (70% hexanes:30% ethyl acetate) to provide 1,1-dimethylethyl 3-[1,4-bis(phenylmethyl)piperazin-2-yl]-3-hydroxyazetidine-1-carboxylate as a white foam (408 mg, 0.93 mmol, 69% yield). 1H NMR, (400 MHz, CDCl3): 7.35-7.24 (m, 10H), 4.12 (br s, 1H), 3.88 (d, 1H), 3.78-3.65 (m, 4H), 3.53 (d, 1H), 3.43 (d, 1H), 3.21 (m, 1H), 2.80 (br s, 1H), 2.66 (m, 1H), 2.57-2.37 (m, 4H), 1.41 (s, 9H); MS (EI) for C26H35N3O3: 438 (MH+).

reactant | 3-(3-hydroxyazetidin-3-yl)-1,4-bis(phenylmethyl)piperazine-2,5-dione | 1.35 mmol, 493 mg | OC1(CNC1)C1C(N(CC(N1CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C21H23N3O3
reactant | sodium borohydride | 13.5 mmol, 511 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 7 mL | Cl | ClH
reactant | di-tert-butyl dicarbonate | 2.03 mmol, 442 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyleneglycol dimethylether | 12 mL | COCCOC | C4H10O2
solvent | methanol | 17 mL | CO | CH4O
product | 1,1-dimethylethyl 3-[1,4-bis(phenylmethyl)piperazin-2-yl]-3-hydroxyazetidine-1-carboxylate | 0.93 mmol, 408 mg, 69% yield | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C1(CN(C1)C(=O)OC(C)(C)C)O | C26H35N3O3
